US07091228B2
(1R,2R)-2-[(4′-{[6-(Trifluoromethyl)-1,3-benzothiazol-2-yl]amino}-1,1′-biphenyl-4-yl)carbonyl]cyclopentanecarboxylic acid
A mixture of methyl (1R,2R)-2-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]cyclopentane-carboxylate (150 mg, 0.464 mmol) and 2-chloro-6-(trifluoromethyl)-1,3-benzothiazole(132 mg, 0.557 mmol) was diluted with n-butanol (3 mL) and treated with a catalytic amount of 4 M HCl in dioxane. The suspension was heated at 90° C. overnight. The reaction mixture was concentrated under reduced pressure and purified by flash chromatography on silica gel, eluting with a gradient from 9:1 to 3:2 hexanes/ethyl acetate. The product obtained was suspended in diethyl ether, and the resulting solid was collected by filtration and washed with additional diethyl ether and hexanes. LC-MS for the n-butyl ester: LC-MS m/z 567.3 (MH+), 4.67 min; 1H NMR (300 MHz, CDCl3) δ 8.14–8.10 (m, 3 H), 7.80–7.71 (m, 6 H), 7.62 (d, 2 H), 4.17–4.13 (m, 1 H), 4.09–4.04 (m,2 H), 3.51–3.41 (m, 1 H), 2.21–2.13 (m, 2 H), 1.97–1.90 (m, 1 H), 1.81–1.78 (m, 3 H), 1.58–1.51 (m, 2 H), 1.35–1.28 (m, 2 H),1.23–1.18 (t, 3 H), 0.88 (t, 2 H). The off-white solid was diluted with methanol (2 mL) and tetrahydrofuran (2 mL) and treated with 2 M aqueous sodium hydroxide solution (2 mL). The solution was stirred overnight at rt. The mixture was acidified by the addition of an excess of 2 M aqueous hydrochloric acid solution. The acidic solution was extracted with ethyl acetate. The organic phases were combined, dried (MgSO4), and concentrated under reduced pressure. The residue was suspended in methanol and the resulting solids were removed by filtration. The filtrate, which contained the product, was concentrated under reduced pressure to provide the title compound as a pale orange solid (30 mg, 13% overall yield). 1H NMR (tetrahydrofuran-d8) δ 10.85 (s, 1 H), 8.11–8.07 (m, 3 H), 7.96–7.91 (m, 2 H), 7.79–7.71 (m, 5 H), 7.63–7.59 (dd, 1 H), 4.18 (q, 1 H), 3.37 (q, 1 H), 2.2–1.77 (m, 6 H); LC-MS m/z 511.3 (MH+), retention time 4.27 minutes.

reactant | methyl (1R,2R)-2-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]cyclopentane-carboxylate | 0.464 mmol, 150 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)[C@H]1[C@@H](CCC1)C(=O)OC | C20H21NO3
reactant | 2-chloro-6-(trifluoromethyl)-1,3-benzothiazole | 0.557 mmol, 132 mg | ClC=1SC2=C(N1)C=CC(=C2)C(F)(F)F | C8H3ClF3NS
reactant | HCl | 4 M | Cl | ClH
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (1R,2R)-2-[(4′-{[6-(Trifluoromethyl)-1,3-benzothiazol-2-yl]amino}-1,1′-biphenyl-4-yl)carbonyl]cyclopentanecarboxylic acid | 30 mg, 13% | FC(C1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(=O)[C@H]2[C@@H](CCC2)C(=O)O)C=C1)(F)F | C27H21F3N2O3S
